Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Augmentin / Crestor / egg / lisinopril / simvastatin
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ y/o M w/ h/o provoked PE ___ years ago,
idiopathic peripheral and sensory neuropathy, GERD, HTN, HLD, 
and
depression, presenting now for acute dyspnea, found to have
submassive PE

Patient presented to his PCP today for ___ for his
neuropathy. During evaluation, he mentioned onset of significant
dyspnea on exertion over the last few weeks. He notes becoming
winded when walking upstairs or walking even short distances.
Given his history of a PE, he was referred to ___ for a
CTA. CTA showed extensive segmental and subsegmental PEs, with 
an
elevated Trop-T. Thus the decision was made to transfer patient
here for further evaluation/management.   

Patient had a PE about ___ years ago, thought secondary to
prolonged bed rest in the setting of retinitis. He completed a 6
month course of anticoagulation. Per report, a hypercoagulable
work-up was negative at that time. He had a colonoscopy a few
weeks ago with 3 polyps removed.  

In the ED, patient was noted to be tachycardic, but otherwise 
HDS
with no O2 requirement. MASCOT evaluated the patient and 
differed
lysis or catheter directed therapy. Patient was started on
heparin with plan for admission to the floor for further
monitoring.      

On arrival to the floor, patient reports overall feeling well. 
He
does continue to feel mildly short of breath, but denies chest
pain, cough, abdominal pain, or hemoptysis.  

 
Past Medical History:
GERD
HTN
HLD
H/o PE
Idiopathic peripheral and sensory neuropathy 
Depression 

 
Social History:
___
Family History:
Denies any family history of blood clots or other clotting
disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: Reviewed in OMR 
GENERAL: Alert and interactive. In no acute distress.
HEENT: MMM, hoarse voice 
CARDIAC: RRR, no murmurs, rubs, or gallops
LUNGS: CTAB, NC in place
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: No clubbing, cyanosis, or edema. 
NEUROLOGIC: AOx3. CN2-12 intact, but hoarse voice. Moving all 4
limbs spontaneously. ___ strength in upper extremities. ___
strength bilaterally in dorsiflexion, decreased sensation in
lower extremities. 

DISCHARGE PHYSICAL EXAM: 
========================
VITALS: 93-94% ambulatory on RA, T 97.5, BP 110/57, HR 78, RR 20 

GENERAL: Alert and interactive. In no acute distress, but frail 
in appearance. 
HEENT: MMM, hoarse voice 
Neck: no JVP while pt sitting upright
CARDIAC: RRR, no murmurs, rubs, or gallops
LUNGS: CTAB, no w/r/r
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: No clubbing, cyanosis, or edema. +DP b/l. no calf 
tenderness to palpation or dorsiflexion. 
NEUROLOGIC: AOx3. CN2-12 intact, but hoarse voice. Moving all 4 
limbs spontaneously. Gait is somewhat shuffling, using cane, but 
appears like baseline.
 
Pertinent Results:
ADMISSION LABS: 
===================
___ 12:34AM BLOOD WBC-13.6* RBC-4.61 Hgb-14.9 Hct-43.4 
MCV-94 MCH-32.3* MCHC-34.3 RDW-13.0 RDWSD-44.3 Plt ___
___ 12:34AM BLOOD Neuts-70.1 ___ Monos-7.2 Eos-1.6 
Baso-0.6 Im ___ AbsNeut-9.50* AbsLymp-2.72 AbsMono-0.98* 
AbsEos-0.22 AbsBaso-0.08
___ 12:34AM BLOOD ___ PTT-150* ___
___ 09:25AM BLOOD Glucose-101* UreaN-14 Creat-0.8 Na-142 
K-4.4 Cl-102 HCO3-25 AnGap-15
___ 12:34AM BLOOD cTropnT-0.04*
___ 12:34AM BLOOD proBNP-13
___ 09:25AM BLOOD Calcium-9.7 Phos-4.3 Mg-1.9

DISCHARGE LABS: 
=================
___ 09:25AM BLOOD WBC-8.5 RBC-4.50* Hgb-14.4 Hct-42.3 
MCV-94 MCH-32.0 MCHC-34.0 RDW-13.0 RDWSD-44.7 Plt ___
___ 09:25AM BLOOD ___ PTT-136.3* ___

IMAGING: 
===============
CTA ___ @ ___ 
IMPRESSION:
1. Multiple pulmonary emboli involving the right upper, right 
middle, right lower, lingular, and left lower lobe
segmental and subsegmental pulmonary arterial branches.  No 
evidence of right heart strain or pulmonary infarction.
2. 3 mm right upper lobe pulmonary nodule.  Please refer to 
___ criteria below for ___ recommendations.
3. 1.6 cm right thyroid nodule.  This may be further evaluated 
with dedicated thyroid ultrasound.

RECOMMENDATION(S):  For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT ___ is
recommended in a low-risk patient, and an optional CT in 12 
months is recommended in a high-risk patient.
See the ___ ___ Guidelines for the Management 
of Pulmonary Nodules Incidentally Detected on CT" for
comments and reference: 
___

Thyroid nodule.  Ultrasound follow up recommended.
___ College of Radiology guidelines recommend further 
evaluation for incidental thyroid nodules of 1.0 cm or
larger in patients under age ___ or 1.5 cm in patients age ___ or 
___, or with suspicious findings.

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE 
================================= 
Mr. ___ is a ___ gentleman with history of provoked 
DVT PE ___ years ago status post 6 months on dabigatran, who 
presented as a transfer from ___ with an unprovoked 
submassive PE and mildly elevated troponins. Mascot evaluated 
patient and felt no interventions beyond heparin gtt were 
indicated. Patient required 2 L nasal cannula which was weaned 
as tolerated by patient so he will not be discharged with 
supplemental O2. Patient was transitioned to DOAC for indefinite 
therapy given his prior history. 

TRANSITIONAL ISSUES: 
================================= 
[] 
MEDICATIONS: 
- New Meds: rivaroxaban
- Stopped Meds: none
- Changed Meds: none
___ 
[ ]PCP: patient was found to have a 3mm RUL pulmonary nodule on 
CT chest. Recommend repeat CT scan in 12 months for 
re-evaluation given high risk with smoking history.
[ ] PCP: patient was incidentally found to have a 1.6cm right 
thyroid nodule on CT chest at outside hospital prior to 
transfer. Recommend repeat imaging as an outpatient with 
dedicated ultrasound.
[ ]PCP: pt initiated on rivaroxaban, please continue 
indefinitely given second DVT/PE.

OTHER ISSUES: 
- Discharge Hemoglobin: 14.4
- Discharge Cr: 0.8

# CODE: Full (presumed) 

ACUTE/ACTIVE ISSUES:
====================
#. Submassive PE
Reassuringly patient HDS, though initially pt had new O2 
requirement. Successfully weaned O2. Lacks significant risk 
factors for PE except for history of prior blood clot, and no 
evidence for provoked cause. Reportedly had extensive work-up 
previously at ___ which was unremarkable. PCP has been ensuring 
age appropriate screening especially in s/o recent weight loss. 
- continue rivaroxaban indefinitely d/t prior hx of PE
- continue age appropriate screenings

CHRONIC/STABLE ISSUES:
======================
#. Neuropathy
Followed by neurology at ___. Receives IVIG every 4 weeks, with
reported improvement in symptoms. 
- Continue to ___ out patient

#. HTN
- Continue home atenolol

#. Depression
- Patient discontinued mirtazapine at home prior to admission
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 
3. Acyclovir 400 mg PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablet(s) by 
mouth twice a day Disp #*1 Dose Pack Refills:*0 
2.  Acyclovir 400 mg PO DAILY  
3.  Atenolol 25 mg PO DAILY  
4.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Submassive pulmonary embolism

Secondary:
Leukocytosis, resolved
Hypoxia, resolved

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent w/ cane.

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a blood clot in your lung
 
What was done for me while I was in the hospital?  
- You were given IV blood thinners to treat the clot
- We gave you oxygen to help your breathing
- You were transitioned to a blood thinner that you can take by 
mouth (rivaroxaban)

What should I do when I leave the hospital?  
-Continue taking your new blood thinner
-___ with your PCP as directed

___,  
Your ___ Care Team  

 
Followup Instructions:
___